US04152322
This process is adapted from R. L. Huguenin et al., Helv. Chim. Acta, 48, 1885 (1965). Boc-nitroarginine (7.12 g., 22.3 mmole), glycinamide hydrochloride (2.46 g., 22.3 mmole), triethylamine (3.0 ml., 22.3 mmole) and 1-hydroxybenzotriazole monohydrate (3.42 g., 22.3 mmole) were dissolved in a mixture of tetrahydrofuran (THF) (30 ml.), acetonitrile (30 ml.), and water (8 ml.). Dicyclohexylcarbodiimide (4.66 g., 22.6 mmole) in 10 ml. of 1:1 THF/acetonitrile was added dropwise during 10 min. The resulting mixture was stirred at room temperature for 17 hours, filtered, and the solid washed with 1:1 THF/acetonitrile. Most of the product was mixed with dicyclohexyl urea in the filtered solids. Crystallization from MeOH/ether gave pure Boc-Arg(NO2)-Gly-NH2, 5.95 g. (71% yield): mp 151°-153° C. (dec); [α]58924 +0.21, [α]46324 +3.00 (c, 1.4, MeOH).

reactant | Boc-nitroarginine | 22.3 mmole, 7.12 g | C(=O)(OC(C)(C)C)N([C@@H](CCCNC(N)=N)C(=O)O)[N+](=O)[O-] | C11H21N5O6
reactant | glycinamide hydrochloride | 22.3 mmole, 2.46 g | Cl.NCC(=O)N
reactant | triethylamine | 22.3 mmole, 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole monohydrate | 22.3 mmole, 3.42 g | O.ON1N=NC2=C1C=CC=C2
reactant | Dicyclohexylcarbodiimide | 22.6 mmole, 4.66 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 8 ml | O | H2O
solvent | THF acetonitrile | O1CCCC1.C(C)#N
product | Boc-Arg(NO2)-Gly-NH2 | 71% yield | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N)C(=O)OC(C)(C)C | C13H25N7O6
